US08124634B2
To C-Azido-C-(2-fluoro-4-bromo-phenyl)-methylamine (0.35 g, 1.43 mmol) was added triphenyl phospine (0.45 g, 1.72 mmol), 2N HCl (2 mL), and THF (2 mL). The reaction mixture was stirred at r.t. for 2 h and the reaction quenched with NaHCO3 (10 mL) and pH adjusted to 8, extracted with dichloromethane (2×30 mL) and washed with brine. The combined organic phases were dried over Na2SO4, filtered and evaporated yielding the crude product. Purification by chromatography (silica, EtOAc/Heptane, 1:1, followed by CH—2Cl2/MeOH 9:1 and with addition of a SCX colon) yielded 93 mg (30%) of 1-(2-Fluoro-4-bromo-phenyl)-ethylamine. 1H NMR δ (CDCl3): 1.44 (3H, d), 2.48 (2H, br s), 4.41 (1H, q), 7.19-7.40 (3H, m).

reactant | C-Azido-C-(2-fluoro-4-bromo-phenyl)-methylamine | 1.43 mmol, 0.35 g | N(=[N+]=[N-])C(C1=C(C=C(C=C1)Br)F)N | C7H6BrFN4
reactant | triphenyl phospine | 1.72 mmol, 0.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HCl | 2N, 2 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-Fluoro-4-bromo-phenyl)-ethylamine | 93 mg, 30% | FC1=C(C=CC(=C1)Br)C(C)N | C8H9BrFN
